US03946049
5-(p-Nitrophenyl)-2-furamidoxime Hydrodhloride
A mixture of 97 g (0.45 mole) of 5-(p-nitrophenyl)-2-furonitrile, 34 g (0.49 mole) of hydroxylamine hydrochloride, 27 g (0.49 mole) of KOH and 1450 ml of absolute ethanol was refluxed for one hour, cooled and filtered. The solid was stirred in dilute HCl/H2O, and was filtered and air dried to yield 86 g (67%). An analytical sample was prepared by drying a sample in the vacuum pistol at room temperature, m.p. 230°.

reactant | 5-(p-nitrophenyl)-2-furonitrile | 0.45 mole, 97 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C#N | C11H6N2O3
reactant | hydroxylamine hydrochloride | 0.49 mole, 34 g | Cl.NO
reactant | KOH | 0.49 mole, 27 g | [OH-].[K+]
solvent | ethanol | 1450 ml | C(C)O | C2H6O
product | 5-(p-Nitrophenyl)-2-furamidoxime | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(N)=NO | C11H9N3O4
